US06489344B1
Preparation of Polymer-bound {2-[(2-morpholin-4-ylethyl)amino]ethyl}(5-nitro(2-pyridyl))amine
Made using the same procedure as for polymer-bound dimethyl[2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)ethyl]amine except that resin-bound (2-morpholin-4-ylethyl){2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine was used.

reactant | dimethyl[2-({2-[(5-nitro(2-pyridyl))amino]ethyl}amino)ethyl]amine | CN(CCNCCNC1=NC=C(C=C1)[N+](=O)[O-])C | C11H19N5O2
reactant | (2-morpholin-4-ylethyl){2-[(5-nitro(2-pyridyl))amino]ethyl}[(2-nitrophenyl)sulfonyl]amine | N1(CCOCC1)CCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCNC1=NC=C(C=C1)[N+](=O)[O-] | C19H24N6O7S
product | {2-[(2-morpholin-4-ylethyl)amino]ethyl}(5-nitro(2-pyridyl))amine | N1(CCOCC1)CCNCCNC1=NC=C(C=C1)[N+](=O)[O-] | C13H21N5O3
